US06200254B1
In a 2 L Morton flask a mixture of sodium (7.48 g, 0.34 mole) in toluene (600 ml) was heated to reflux and stirred vigorously for 1 hour. To this solution was added dropwise (very slowly) a mixture of diethyl hexadeca-4E,12E-diene-1,16-dioate (24.86 g, 0.073 mole) and chlorotrimethylsilane (41.7 ml, 0.33 mole) in toluene (100 ml) over 2 hours. The reaction was heated to reflux for an additional 4 hours, then cooled to room temperature and stirred for an additional 16 hours. To the reaction mixture was added methanol (˜100 ml), the mixture is stirred 1 hour, and then left to stand for 1 hour. The resulting bi-phasic mixture was separated and the top layer is washed with 10% aqueous hydrochloric acid. The aqueous wash was re-extracted with ether and the organic layers are combined. The bottom layer from the bi-phasic mixture described above was combined with the aqueous wash and extracted again with diethyl ether. All organic layers were combined, dried with magnesium sulfate, filtered and evaporated to give the 16-hydroxycyclohexadeca-4E,12E-dien-1-one (20.0 g, 93% yield) as a brown oil which can be used directly in the next step. If desired, the material can be purified via reduced pressure distillation (210-220° C./0.3 mm Hg). C16H26O2 (250.38 g/mole). bp. 210-220° C./0.3 mm Hg. HNMR (500 MHz, CDCl3): 1.20-1.80 (m, 10H), 1.90-2.09 (m, 4H), 2.10-2.30 (m, 4H) 2.35 (m, 2H), 2.50 (m, 2H), 4.10 (m, 1H), 5.40 (m, 4H) ppm. 13CNMR (125 MHz, CDCl3): 27.8, 27.9*, 28.1, 28.5*, 31.4, 31.5, 32.8, 37.9, 76.2, 127.6, 128.8, 132.6, 133.1, 214 ppm. IR (νmax(cm−1)): 3450(b), 2940(s), 2910(s), 2850(s), 1720(s), 1440(m), 970(s). MS(m/z): 250(M+), 232, 221, 203, 189, 176, 161, 149, 135, 121, 109, 95, 81, 67, 55, 41.

reactant | sodium | 0.34 mole, 7.48 g | [Na] | Na
reactant | diethyl hexadeca-4E,12E-diene-1,16-dioate | 0.073 mole, 24.86 g | C(CC\C=C\CCCCCC\C=C\CCC(=O)OCC)(=O)OCC | C20H34O4
reactant | chlorotrimethylsilane | 0.33 mole, 41.7 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | methanol | ˜100 ml | CO | CH4O
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 16-hydroxycyclohexadeca-4E,12E-dien-1-one | 20.0 g, 93% yield | OC1CC/C=C/CCCCCC/C=C/CCC1=O | C16H26O2
